US06080754
4-Acetyl-2-(4-benzyloxyphenyl)-1-ethyl-7-hydroxymethylpyrrolo[2,1,5-cd]indolizine
4-Acetyl-2-(4-benzyloxyphenyl)-7-(tert-butyldimethylsilanyloxymethyl)-1-ethylpyrrolo[2,1,5-cd]indolizine (1.5 g, 2.79 mmol) and tetrabutylammoniumfluoride hydrate (2.92 g. 11.16 mmol) was dissolved in 20 ml of dry tetrahydrofuran and stirred for 24 hours. Diethyl ether (100 ml) was added and the organic layer was extracted with 100 ml of 15% acetic acid, 100 ml of saturated sodium hydrogen carbonate, 100 ml of water, washed with brine, dried over sodium sulfate, and evaporated to a red-brown solid. The crude product was purified by column chromatography over silica gel 60, using 10% of ethyl acetate in toluene as the eluent. Fractions containing the product were combined an the solvent was evaporated. The remaining solid was crystallised from toluene and petroleum ether to afford 0.7 g (59%) of the title compound. M.p. 190-191° C. MS(SP): m/z 423 (M+). 1H--NMR (DMSO-d6, 200 MHz) δ: 1.39 (t, 3 H); 2.64 (s, 3 H); 3.20 (q, 2 H); 5.18 (s, 2 H); 5.22 (s, 2 H); 7.25 (d, 2 H); 7.31-7.55 (m, 5 H); 7.75 (d, 2 H); 8.01 (d, 1 H); 8.20 (s, 1 H); 8.36 (d, 1 H). Analysis: Calculated for C28H25N1O3 : C, 79.41; H, 5.95; N, 3.31%; Found: C, 79.2; H, 5.7; N, 3.2%.

reactant | 4-Acetyl-2-(4-benzyloxyphenyl)-7-(tert-butyldimethylsilanyloxymethyl)-1-ethylpyrrolo[2,1,5-cd]indolizine | 2.79 mmol, 1.5 g | C(C)(=O)C=1C=C2C(=C(C3=C(C=CC1N23)CO[Si](C)(C)C(C)(C)C)CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C34H39NO3Si
reactant | tetrabutylammoniumfluoride hydrate | 11.16 mmol, 2.92 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Acetyl-2-(4-benzyloxyphenyl)-1-ethyl-7-hydroxymethylpyrrolo[2,1,5-cd]indolizine | 0.7 g, 59% | C(C)(=O)C=1C=C2C(=C(C3=C(C=CC1N23)CO)CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C28H25NO3
